* source PROIECT_CEF2P1
D_D1         0 N11805 BZX84-C2V7 
V_V1         N00085 0 10Vdc
R_R1         N14416 N00085  82 TC=0,0 
Q_Q3         N20903 N11805 N00584 QBC846B 
Q_Q4         N02260 N30105 N00584 QBC846B 
R_R3         N20895 N00085  1k TC=0,0 
R_R4         N20899 N00085  1k TC=0,0 
R_R5         N00976 N00085  1k TC=0,0 
Q_Q5         N00584 N00976 N31369 QBC846B 
R_R10         N09148 N02434  1.8k TC=0,0 
R_R11         0 N09152  2.7k TC=0,0 
R_RL         0 N02434  200 TC=0,0 
X_R9         N09148 N30105 N09152 POT PARAMS: SET=0.55 VALUE=10K
Q_Q10         N02260 N02271 N02434 QBC817-25 
R_R6         0 N31369  220 TC=0,0 
Q_Q9         N00085 N107740 N02271 QBC846B 
R_R8         N02271 N02434  1.4 TC=0,0 
X_R7         0 N12091 N11805 POT PARAMS: SET=0.853 VALUE=10K
Q_Q11         N02260 N12091 0 QBC817-25 
Q_Q2         N11805 N14501 N14416 QBC856B 
Q_Q1         N14501 N14416 N00085 QBC856B 
R_R2         0 N14501  1k TC=0,0 
Q_Q8         N00085 N02260 N107740 QBC846B 
Q_Q6         N20903 N20903 N20895 QBC807-25 
Q_Q7         N02260 N20903 N20899 QBC807-25 
X_D2         N27431 0 LED PARAMS: IS=1.9786e-19 RS=5  BV=5 IBV=10e-6         
R_Rled         N27431 N00085  680 TC=0,0 
D_D3         N00976 N32969 D1N4148 
D_D4         N32969 0 D1N4148 
